US08067408B2
N-[(3-Bromophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (0.825 g, 1.302 mmol), (3-formylphenyl)boronic acid (0.195 g, 1.302 mmol), potassium carbonate (0.540 g, 3.91 mmol), and Pd(Ph3P)4 (0.075 g, 0.065 mmol) were divided into 3 portions and added to three 2-5 mL Biotage microwave vials in 1,4-dioxane (3 mL) and water (1 mL). The vials were capped and the mixtures were microwaved at normal power in the Emrys Optimizer at 100° C. for 15 min. The combined crude product was partitioned between EtOAc (75 mL) and water (20 mL). The phases were separated, and the organic phase was washed with water (2×20 mL), brine (20 mL), dried over anhydrous Na2SO4 filtered and evaporated to give the crude residue. The residue was taken up in DCM and absorbed on Isolute® Sorbent and purified by Combiflash using an 80 g silica column eluted with 0-10% DCM/MeOH. The product fractions were combined and concentrated to give (N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide (584.1 mg, 0.875 mmol, 67.2% yield)) as a white solid. LC-MS m/z 659.6 (M+H)+, 1.01 min (ret time); mp 109-112° C.

reactant | N-[(3-Bromophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 1.302 mmol, 0.825 g | BrC=1C=C(C=CC1)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O3
reactant | (3-formylphenyl)boronic acid | 1.302 mmol, 0.195 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium carbonate | 3.91 mmol, 0.540 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.065 mmol, 0.075 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide | 0.875 mmol, 584.1 mg, 67.2% yield | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
